US07595321B2
3-Amino-N-(3-methoxypropyl)-6-{4-[(4-methylpiperazin-1-yl)sulfonyl]phenyl}pyrazine-2-carboxamide hydrochloride
Triisopropyl borate (0.82 mL, 3.6 mmol) was added to a stirred solution of 1-[(4-bromophenyl)sulfonyl]-4-methylpiperazine (0.380 g, 1.2 mmol; described: in Keasling, H. H. et el. J. Med. Chem. 1965,8,548-550) in anhydrous tetrahydrofuran (15 mL) at −78° C. under an atmosphere of nitrogen, followed by dropwise addition of n-butyllithium (2.4 mL, 3.6 mmol) over 10 min. The resulting mixture was allowed to warm up to room temperature and was stirred for another 10 min at ambient temperature. HCl (3 M, 1.9 mL, 6.0 mmol) was added and the mixture was stirred for another 10 min, followed by an addition of sodium carbonate (1.26 g, 11.9 mmol). After 30 min, 3-amino-6-bromo-N-(3-methoxypropyl)pyrazine-2-carboxamide (0.24 g, 0.83 mmol) and Pd(dppf)Cl2 (39 mg, 0.05 mmol) were added and the resulting mixture was heated at 65° C. for 22 h. The reaction mixture was evaporated and the residue was dissolved in NaHCO3 (aq. sat.)/ethyl acetate, the aqueous phase was extracted with ethyl acetate and the combined organic phases were evaporated. The crude product was purified on a silica gel column using methylene chloride/methanol/triethyl amine, (9:1:0.1), as the solvent. The product was eluated from the silica with methanol and the solvent was evaporated to give the free base. The base was dissolved in methanol (10 mL) and the mixture was treated with HCl (1.0 M in diethyl ether, 1 mL) followed by addition of diethyl ether (5 mL). The formed precipitate was filtered off and dried at 40° C. in vacuo to give 70 mg (19% yield) of the title compound as a yellow solid: 1H NMR (DMSO-d6, 400 MHz) δ 11.02 (br s, 1H), 8.97 (s, 2H), 8.46 (d, J=9 Hz, 2H), 7.82 (d, J=9 Hz, 2H), 3.82 (d, J=13 Hz, 2H), 3.41 (m, 6H), 3.27 (s, 3H), 3.15 (m, 2H), 2.72 (m, 5H), 1.81 (m, 2H); MS (ES) m/z 449 (M++1).

reactant | Triisopropyl borate | 3.6 mmol, 0.82 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | 1-[(4-bromophenyl)sulfonyl]-4-methylpiperazine | 1.2 mmol, 0.380 g | BrC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C | C11H15BrN2O2S
reactant | n-butyllithium | 3.6 mmol, 2.4 mL | C(CCC)[Li]
reactant | HCl | 6.0 mmol, 3 M, 1.9 mL | Cl | ClH
reactant | sodium carbonate | 11.9 mmol, 1.26 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-amino-6-bromo-N-(3-methoxypropyl)pyrazine-2-carboxamide | 0.83 mmol, 0.24 g | NC=1C(=NC(=CN1)Br)C(=O)NCCCOC | C9H13BrN4O2
reactant | HCl | 1.0 M, 1 mL | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd(dppf)Cl2 | 0.05 mmol, 39 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
product | 3-Amino-N-(3-methoxypropyl)-6-{4-[(4-methylpiperazin-1-yl)sulfonyl]phenyl}pyrazine-2-carboxamide hydrochloride | 70 mg, 19% yield | Cl.NC=1C(=NC(=CN1)C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C)C(=O)NCCCOC | InChI=1S/C20H28N6O4S.ClH/c1-25-9-11-26(12-10-25)31(28,29)16-6-4-15(5-7-16)17-14-23-19(21)18(24-17)20(27)22-8-3-13-30-2;/h4-7,14H,3,8-13H2,1-2H3,(H2,21,23)(H,22,27);1H
